US09340527B2
The mixture of 3-methylpiperidine-4-carboxylic acid hydrochloride (3.3 g, 18.4 mmol, 1.0 eq) and SOCl2 (6.6 g, 55.3 mmol, 3.0 equiv) in EtOH (30 mL) was stirred at reflux for 3 h, and then the reaction mixture was concentrated by vacuum to give compound ethyl 3-methylpiperidine-4-carboxylate hydrochloride as a yellow oil which was used for next step. ESI-MS (M+H)+: 172.2.

reactant | 3-methylpiperidine-4-carboxylic acid hydrochloride | 18.4 mmol, 3.3 g, 1.0 eq | Cl.CC1CNCCC1C(=O)O
reactant | SOCl2 | 55.3 mmol, 6.6 g, 3.0 equiv | O=S(Cl)Cl | Cl2OS
reactant | EtOH | 30 mL | CCO | C2H6O
product | ethyl 3-methylpiperidine-4-carboxylate hydrochloride | Cl.CC1CNCCC1C(=O)OCC | InChI=1S/C9H17NO2.ClH/c1-3-12-9(11)8-4-5-10-6-7(8)2;/h7-8,10H,3-6H2,1-2H3;1H
